US08497368B2
6-(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-5,7-difluoro-quinoline (40.2)
A solution of (5,7-difluoro-quinolin-6-yl)-acetic acid hydrazide (1.024 g, 4.32 mmol) and 3,6-dichloropyridazine (0.772 g, 5.18 mmol) in 60 mL of butan-1-ol was heated at 135° C. in a sealed tube for 16 h. The solvent was removed in vacuo, and the residue was purified by flash chromatography to afford 842 mg of the title compound as gray solid. 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.96 (dd, 1H), 8.26 (d, 1H), 7.60-7.66 (m, 2H), 7.45 (d, 1H), 4.81 (s, 2H). LCMS (method B): [MH]+=332, tR=4.88 min.

reactant | (5,7-difluoro-quinolin-6-yl)-acetic acid hydrazide | 4.32 mmol, 1.024 g | FC1=C2C=CC=NC2=CC(=C1CC(=O)NN)F | C11H9F2N3O
reactant | 3,6-dichloropyridazine | 5.18 mmol, 0.772 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
solvent | butan-1-ol | 60 mL | C(CCC)O | C4H10O
product | 6-(6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-5,7-difluoro-quinoline | 842 mg | ClC=1C=CC=2N(N1)C(=NN2)CC=2C(=C1C=CC=NC1=CC2F)F | C15H8ClF2N5
